US07763639B2
1-[2-FLUORO-3-(TRIFLUOROMETHYL)PHENYL]-4-PROPYLPIPERAZINE
Preparation according to Example 1: 1-[2-fluoro-3-(trifluoro-methyl)phenyl]piperazine (0.97 g, 3.9 mmol), acetonitrile (50 ml), potassium carbonate (0.81 g, 5.86 mmol) and 1-iodopropane (0.457 ml, 4.6 mmol). Yield: 0.57 g (50%). The amine was converted to the hydrochloric acid salt and recrystallized from ethanol/diethyl ether: M.p. 180-181° C. MS m/z (relative intensity, 70 eV) 290 (M+, 22), 262 (13), 261 (bp), 218 (18), 190 (22).

reactant | 1-[2-fluoro-3-(trifluoro-methyl)phenyl]piperazine | 3.9 mmol, 0.97 g | FC1=C(C=CC=C1C(F)(F)F)N1CCNCC1 | C11H12F4N2
reactant | potassium carbonate | 5.86 mmol, 0.81 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-iodopropane | 4.6 mmol, 0.457 ml | ICCC | C3H7I
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 1-[2-FLUORO-3-(TRIFLUOROMETHYL)PHENYL]-4-PROPYLPIPERAZINE | FC1=C(C=CC=C1C(F)(F)F)N1CCN(CC1)CCC | C14H18F4N2
